US06017919
Pentyl 3-amino-4-methoxy-2-methylthiomethylbenzoate (830 mg, 2.79 mmol) and DMF (4.0 ml) were mixed, and potassium t-butoxide (470 mg, 4.19 mmol) and bromopentane (0.62 ml, 5.0 mmol) were successively added to this solution. The mixture was stirred at 100° C. for 1 hour and filtered. The filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (hexane/ethyl acetate=15/1) to give pentyl 4methoxy-2-methylthiomethyl-3-pentylaminobenzoate (178 mg, 17%) as a pale-yellow oil.

reactant | Pentyl 3-amino-4-methoxy-2-methylthiomethylbenzoate | 2.79 mmol, 830 mg | NC=1C(=C(C(=O)OCCCCC)C=CC1OC)CSC | C15H23NO3S
reactant | potassium t-butoxide | 4.19 mmol, 470 mg | CC(C)([O-])C.[K+]
reactant | bromopentane | 5.0 mmol, 0.62 ml | BrCCCCC | C5H11Br
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | pentyl 4methoxy-2-methylthiomethyl-3-pentylaminobenzoate | 178 mg, 17% | COC1=C(C(=C(C(=O)OCCCCC)C=C1)CSC)NCCCCC | C20H33NO3S
